US04942166
9-(4-Hydroxy-3-hydroxymethylbut-1-yl)guanine monohydrate. (Method 1)
9-(4-Hydroxy-3-hydroxymethylbut-1-yl)guanine (60 mg) was suspended in water (1.8 ml) and concentrated aqueous ammonia (specific gravity 0.88) was added until complete dissolution occured (0.4 ml).

reactant | 9-(4-Hydroxy-3-hydroxymethylbut-1-yl)guanine | 60 mg | OCC(CCN1C=2N=C(NC(C2N=C1)=O)N)CO | C10H15N5O3
reactant | ammonia | N | H3N
solvent | water | 1.8 ml | O | H2O
product | 9-(4-Hydroxy-3-hydroxymethylbut-1-yl)guanine monohydrate | O.OCC(CCN1C=2N=C(NC(C2N=C1)=O)N)CO | InChI=1S/C10H15N5O3.H2O/c11-10-13-8-7(9(18)14-10)12-5-15(8)2-1-6(3-16)4-17;/h5-6,16-17H,1-4H2,(H3,11,13,14,18);1H2
